US06727264B1
N-(3-{1-[4-(1,3-DIOXOLAN-2-YL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure G and Scheme B1 using 2-(4-chlorobutyl)-1,3-dioxolane and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 375.2 (M+H)+.

reactant | 2-(4-chlorobutyl)-1,3-dioxolane | ClCCCCC1OCCO1 | C7H13ClO2
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-(3-{1-[4-(1,3-DIOXOLAN-2-YL)BUTYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | O1C(OCC1)CCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C22H34N2O3
